US08835465B2
6-Bromo-N-(4-fluorobenzyl)pyridin-2-amine
To a suspension of 6-bromopyridin-2-amine (500 mg, 2.89 mmol), sodium tert-butoxide (695 mg, 7.24 mmol) in anhydrous toluene (20 ml) was added 4-fluorobenzylchloride (415 mg, 2.90 mmol) at room temperature. The reaction mixture was heated at 100° C. overnight. EtOAc was added and the mixture was washed with brine and was concentrated. Flash chromatography (10-14% EtOAc in hexanes) gave the title compound (506 mg, 63%). 1H NMR (CDCl3) δ 4.40 (m, 2H), 4.95 (br s, 1H), 6.20 (m, 1H), 6.73 (m, 1H), 7.00 (m, 2H), 7.25 (m, 3H).

reactant | 6-bromopyridin-2-amine | 2.89 mmol, 500 mg | BrC1=CC=CC(=N1)N | C5H5BrN2
reactant | sodium tert-butoxide | 7.24 mmol, 695 mg | CC(C)([O-])C.[Na+]
reactant | 4-fluorobenzylchloride | 2.90 mmol, 415 mg | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-N-(4-fluorobenzyl)pyridin-2-amine | 506 mg, 63% | BrC1=CC=CC(=N1)NCC1=CC=C(C=C1)F | C12H10BrFN2
